### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph/Walk): more `transfer` API

### PR DESCRIPTION
**Pull request by SnirBroshi**
---
The Hamiltonian lemmas don't really need `Finite`; I'll fix this after #41435 (in whichever merges second).

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Walk/Maps.lean [hunk 1]
```diff
@@ -156,9 +156,17 @@ theorem transfer_self : p.transfer G p.edges_subset_edgeSet = p := by
 
 variable {H : SimpleGraph V}
 
-theorem transfer_eq_map_ofLE (hp) (GH : G ≤ H) : p.transfer H hp = p.map (.ofLE GH) := by
+theorem transfer_eq_mapLe (hp) (GH : G ≤ H) : p.transfer H hp = p.mapLe GH := by
   induction p <;> simp [*]
 
+@[deprecated (since := "2026-07-14")] alias transfer_eq_map_ofLE := transfer_eq_mapLe
```
Comment (joneugster) [inline Mathlib/Combinatorics/SimpleGraph/Walk/Maps.lean:162]: Since these dates are now ~2 months in the past, please update all deprecation dates before merging.

**Review by joneugster — APPROVED** [review]
LGTM, thanks for the PR

maintainer delegate

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors d+

**Comment by SnirBroshi** [comment]
Thanks!

bors merge
